US07375227B2
381E. 3-[2-(4-Benzyl-piperidin-1-yl)-ethyl]-1-methyl-1-(2-methyl-quinolin-4-yl)-urea
To a stirred solution of CDI (178 mg, 1.1 mmol) in DMSO (5 mL) is added a solution of 2-(4-benzyl-piperidin-1-yl)-ethylamine (218 mg, 1 mmol) in DMSO (1 mL). The reaction mixture is stirred at 20° C. for 3 h. Methyl-(2-methyl-quinolin-4-yl)-amine (173 mg, 1 mmol) is added. To the resulting solution is added in a single portion NaHMDS (2 M in THF, 1.25 mL, 2.5 mmol). The reaction mixture is stirred at 20° C. for 24 h, then H2O (0.4 mL) is added. The reaction mixture is evaporated and the residue purified by preparative HPLC to provide the title compound.

reactant | CDI | 1.1 mmol, 178 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 2-(4-benzyl-piperidin-1-yl)-ethylamine | 1 mmol, 218 mg | C(C1=CC=CC=C1)C1CCN(CC1)CCN | C14H22N2
reactant | Methyl-(2-methyl-quinolin-4-yl)-amine | 1 mmol, 173 mg | CNC1=CC(=NC2=CC=CC=C12)C | C11H12N2
reactant | NaHMDS | 2.5 mmol, 2 M, 1.25 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
solvent | H2O | 0.4 mL | O | H2O
product | 3-[2-(4-Benzyl-piperidin-1-yl)-ethyl]-1-methyl-1-(2-methyl-quinolin-4-yl)-urea | C(C1=CC=CC=C1)C1CCN(CC1)CCNC(N(C1=CC(=NC2=CC=CC=C12)C)C)=O | C26H32N4O
